US05428021
A solution of 1.3 g (6.2 mmoles) of 5-nitro-6-ethyl-2-aminobenzoic acid in 40 mL of dry pyridine was cooled in an ice-water bath under inert atmosphere. Ethyl chloroformate, 2 mL (21 mmoles), was added dropwise over a five-minute period. A mild exotherm was observed and a solid separated from solution immediately upon addition. The suspension was stirred in the ice-water bath for 60 minutes, then warmed to room temperature and stirred under inert atmosphere overnight. Approximately half the pyridine was removed in vacuo, and the residual mixture was poured over ice. The precipitated solid, an orange brown color, was collected and air-dried. 0.76 g (47% yield) 6-nitro-5-ethyl-2-ethoxy-3,1-benzoxazin-4-one was obtained. NMR(CDCl3): 1.36(t,3H,J=7.5 Hz), 1.47(t,3H,J=7.2 Hz), 3.27(q,2H,J=7.2 Hz), 4.56(q,2H, J=7.5 Hz), 7.36(d,1H,J=9.0 Hz), 7.98(d,1H,J=9.0 Hz). MS(m/z): 282(M+ +H2O).

reactant | 5-nitro-6-ethyl-2-aminobenzoic acid | 6.2 mmoles, 1.3 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1CC)N | C9H10N2O4
reactant | Ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 6-nitro-5-ethyl-2-ethoxy-3,1-benzoxazin-4-one | 0.76 g, 47% yield | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)OCC)=O)C1CC | C12H12N2O5
